US08471005B2
2-{5-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1,3-dihydro-isoindol-2-yl}-acetamide
Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (0.111 g, 0.298 mmol) and 2-(5-Amino-1,3-dihydro-isoindol-2-yl)-acetamide (0.077 g, 0.40 mmol) were reacted in an analogous manner to Example 908D at 50° C. for 16 h in methoxypropanol. Pale yellow solid was filtered off, washed with water. Found to be pure product (35 mg, 28%). LCMS=414.9 (M+H), HPLC rt=2.256 min, purity=99%. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.40 (s, 1H), 8.95 (s, 1H), 7.78 (d, J=7.4 Hz, 1H), 7.75 (s, 1H), 7.47 (dd, J=7.6 Hz, 1H), 7.39 (d, J=8.6 Hz, 1H), 7.32 (s, 1H), 7.21 (d, J=8.6 Hz, 1H), 7.13-7.05 (m, 3H), 6.94 (d, J=4.6 Hz, 1H), 6.90 (d, J=4.6 Hz, 1H), 3.89 (s, 4H0, 3.78 (s, 3H), 3.27 (s, 2H).

reactant | Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 0.298 mmol, 0.111 g | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C14H10F3N3O4S
reactant | 2-(5-Amino-1,3-dihydro-isoindol-2-yl)-acetamide | 0.40 mmol, 0.077 g | NC=1C=C2CN(CC2=CC1)CC(=O)N | C10H13N3O
solvent | methoxypropanol | COC(CC)O | C4H10O2
product | 2-{5-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1,3-dihydro-isoindol-2-yl}-acetamide | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC=2C=C1CN(CC1=CC2)CC(=O)N | C23H22N6O2
